US07037916B2
At 0° C., butyllithium (70 mL, 1.6 M in hexane) was added to a solution of furan (10 g, 0.15 mol) in THF (150 mL). The mixture was stirred at 0° C. for 1h, then treated with a solution of 1,3-dibromopropane (30 g, 0.15 mol) in THF (50 mL). The mixture was allowed to warm to 25° C. over 2 h, then quenched with a saturated NH4Cl solution (50 mL). The aqueous phase was extracted with diethyl ether (3×50 mL) and the combined organic extracts was dried over Na2SO4. The solvent was evaporated to give crude 2-(3-bromopropyl)furan (30 g), which was purified by silica gel chromatography (10% methylene chloride in hexanes). A mixture of 2-(3-bromopropyl)furan (7.6 g, 40 mmol) and sodium azide (10 g, 150 mmol) in DMF (200 mL) was stirred for 15 h at 90 C. Water (250 mL) was then added and the mixture was extracted by diethyl ether (3×100 mL). The combined organic extracts was washed with water (3×50 mL) and dried over sodium sulfate. The solvent was removed to give pure 2-(3-azidopropyl)-furan as an oil (5 g). A mixture of 2-(3-azidopropyl)furan (0.5 g) and Pd/C (0.05 g, 10%) in methanol (15 mL) was stirred at 25° C. for 8 h under a hydrogen atmosphere. The catalyst was filtered off and solvent was evaporated to give 3-Furan-2-yl-propylamine in quantitative yield.

reactant | butyllithium | 1.6 M, 70 mL | C(CCC)[Li]
reactant | furan | 0.15 mol, 10 g | O1C=CC=C1 | C4H4O
reactant | 1,3-dibromopropane | 0.15 mol, 30 g | BrCCCBr | C3H6Br2
reactant | 2-(3-bromopropyl)furan | 40 mmol, 7.6 g | BrCCCC=1OC=CC1 | C7H9BrO
reactant | sodium azide | 150 mmol, 10 g | [N-]=[N+]=[N-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | Water | 250 mL | O | H2O
product | 2-(3-azidopropyl)-furan | 5 g | N(=[N+]=[N-])CCCC=1OC=CC1 | C7H9N3O
